US05025007
Step C: Preparation of 3-bromo-7-formyl-9-fluorenone
7-Diacetoxymethyl-3-bromo-9-fluorenone (61.1 mg) was suspended in methanol (4.4 ml) and THF (1.0 ml). To this suspension was added 0.054M NaOMe (0.56 ml). The reaction mixture was stirred at room temperature for 22.5 hours. It was then neutralized with 0.2M pH 7 phosphate buffer. The THF and methanol were removed under reduced pressure. Reaction mixture was then diluted with ethyl acetate, washed with water and brine, dried and evaporated gave the crude product (47.5 mg).

reactant | 7-Diacetoxymethyl-3-bromo-9-fluorenone | 61.1 mg | C(C)(=O)OC(C1=CC=C2C=3C=C(C=CC3C(C2=C1)=O)Br)OC(C)=O | C18H13BrO5
reactant | NaOMe | 0.054M, 0.56 ml | C[O-].[Na+]
reactant | phosphate | 0.2M, pH 7 | P(=O)([O-])([O-])[O-]
solvent | methanol | 4.4 ml | CO | CH4O
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-bromo-7-formyl-9-fluorenone | 47.5 mg | BrC=1C=CC=2C(C3=CC(=CC=C3C2C1)C=O)=O | C14H7BrO2
